US07235572B2
c] {4-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid
To a solution of {4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester (50 mg, 99 μmol) in dichloromethane (4 ml) was added trifluoroacetic acid (1 ml). The reaction mixture was stirred for 2 h at ambient temperature. The solvent was removed under reduced pressure and the residue purified by preparative HPLC to give 5 mg (11 μmol, 11%) of the title compound as light yellow solid.

reactant | {4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | 99 μmol, 50 mg | C(C)(C)(C)OC(CN1C=CC2=C(C=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H25F3N2O3S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | {4-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid | 11 μmol, 5 mg, 11% | CC=1N=C(SC1COC1=C2C=CN(C2=CC=C1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C22H17F3N2O3S
